Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Flagyl / Iodinated Contrast- Oral and IV Dye / adhesive tape / 
cefazolin
 
Attending: ___.
 
Chief Complaint:
progressive left leg pain
 
Major Surgical or Invasive Procedure:
L5/S1 MICRODISCECTOMY LEFT

 
History of Present Illness:
___ presented with a prolonged and progressively severe 
disorder of radiating leg pain on the left in S1 distribution, 
found to be related to compression of that nerve root by a 
herniated nucleus pulposus. She underwent a previous prolonged 
and multimodal course of conservative care, without significant 
or lasting relief.  In this setting, she elected to undergo 
surgical decompression.

 
Past Medical History:
PAST MEDICAL HISTORY:  Crohn's disease, hypertension, left knee
pain.

 
Social History:
She lives alone, works as an ___.  Denies tobacco, alcohol 
or illicit drug use.
 
Physical Exam:
PE: 
VS ___ Temp: 98.1 PO BP: 92/52 L Lying HR: 76 RR: 18 
O2
sat: 97% O2 delivery: Ra 
BMI: 23.0. 

NAD, A&Ox4
nl resp effort
RRR
  
Sensory:
___    
     L2     L3      L4         L5             S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe)     (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT          SILT       SILT 
L    SILT   SILT    SILT       decreased     decreased  SILT 
sensory exam is at baseline

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#1. She ambulated 
independently. Hospital course was otherwise unremarkable.On the 
day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
Midodrine birth control, vitamins, etodolac.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Docusate Sodium 100 mg PO BID 
please take with narcotic pain medication 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Gabapentin 100 mg PO TID nerve pain 
may cause drowsiness 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*42 Capsule Refills:*0 
4.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
may take over the counter  
5.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
6.  Midodrine 5 mg PO TID:PRN Home Medication  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  L5-S1 herniated nucleus pulposus, left.
2.  Left S1 radiculopathy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Microdiscectomy

You have undergone the following operation: Minimally Invasive 
Microdiscectomy. 

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without moving around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet:Eat a normal healthy diet.You may have 
some constipation after surgery.

•                Brace:You do not need a brace.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in narcotic 
prescriptions (oxycontin,oxycodone,percocet) to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

                At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy.

                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

 
 
Followup Instructions:
___